US05258536
(2-Methyl-3-chloropropyl)-cyclohexyl-dipropoxysilane
The same apparatus as that described in Example 1 was used. 1367 g (5 mols) of (2-methyl-3-chloropropyl)-cyclohexyl-dichlorosilane were introduced into the flask. At a starting temperature of 60° C., 300 g (5 mols) of n-propanol were added at a uniform rate over a period of 140 minutes. Thereafter the mixture was heated in 120 minutes to 145° C., accompanied by the escape of dissolved hydrogen chloride. The system was from this time forward evacuated to such an extent that it began to boil at a sump temperature of 145° C. An additional 300 g (5 mols) of n-propanol were introduced into the boiling reaction mixture over a period of 140 minutes. The reaction mixture was allowed to react for 35 minutes more, and then the crude product was worked up by vacuum distillation.

reactant | (2-methyl-3-chloropropyl)-cyclohexyl-dichlorosilane | 5 mols, 1367 g | CC(C[Si](Cl)(Cl)C1CCCCC1)CCl | C10H19Cl3Si
reactant | n-propanol | 5 mols, 300 g | C(CC)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
reactant | n-propanol | 5 mols, 300 g | C(CC)O | C3H8O
product | (2-Methyl-3-chloropropyl)-cyclohexyl-dipropoxysilane | CC(C[Si](OCCC)(OCCC)C1CCCCC1)CCl | C16H33ClO2Si
